US04182757
A mixture of 3.6 g of D-glucose, 1.3 g of n-propylamine and 15 ml of methanol is heated at 60° C. for 30 minutes. The reaction mixture is condensed to dryness under reduced pressure and the residue is washed with ether, whereby 4.4 g of 1-n-propylamino-1-deoxy-D-glucose are obtained as a crude product. 4.4 g of said crude product are dissolved in 50 ml of methanol and a solution of 2.5 g of 2-chloroethyl isocyanate in 10 ml of tetrahydrofuran is added dropwise thereto at 0° to 5° C. The solution is stirred at room temperature for one hour and the reaction solution is condensed under reduced pressure. The residue thus obtained is dissolved in 20 ml of formic acid and allowed to stand at room temperature for 20 minutes. 200 ml of ether-n-hexane mixture(1:1) is added to the solution and the resultant oily product is washed with ether repeatedly. 5.0 g of 1-(2-chloroethyl)-3-n-propyl-3-D-glucopyranosylurea are thereby obtained as brownish caramel, which can be, if desired, further purified by silica gel chromatography (Solvent: chloroform-ethyl acetate-methanol(1:2:1)) and obtained as colorless caramel.

reactant | D-glucose | 3.6 g | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | n-propylamine | 1.3 g | C(CC)N | C3H9N
reactant | 2-chloroethyl isocyanate | 2.5 g | ClCCN=C=O | C3H4ClNO
solvent | methanol | 50 ml | CO | CH4O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | formic acid | 20 ml | C(=O)O | CH2O2
solvent | methanol | 15 ml | CO | CH4O
product | 1-(2-chloroethyl)-3-n-propyl-3-D-glucopyranosylurea | 5.0 g | ClCCNC(=O)N(C1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)CCC | C12H23ClN2O6
